US07626021B2
To a solution of methyl 3-(3-iodo-1H-pyrazolo[3,4-b]pyridin-5-yl)benzoate (988 mg, 2.61 mmol) in DMF was added sodium hydride (60% in mineral oil, 525 mg, 13.03 mmol) at −40° C. The mixture was stirred for 60 minutes before SEMCl (920 μl, 5.22 mmol) was added. The reaction was warmed to room temperature and quenched with methanol and water. Acetic acid was then used to adjust the pH to 4-5. The mixture was then extracted with ethyl acetate (3×) and the organic layers were combined, dried over sodium sulfate, filtered and concentrated to dryness. Silica gel chromatography purification of the resulting crude product afforded 3-(3-iodo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-b]pyridin-5-yl)benzoic acid (200 mg, 15% yield) as solids. MS: m/z 517.9 (M+Na+).

reactant | methyl 3-(3-iodo-1H-pyrazolo[3,4-b]pyridin-5-yl)benzoate | 2.61 mmol, 988 mg | IC1=NNC2=NC=C(C=C21)C=2C=C(C(=O)OC)C=CC2 | C14H10IN3O2
reactant | sodium hydride | 13.03 mmol, 525 mg | [H-].[Na+]
reactant | SEMCl | 5.22 mmol, 920 μl | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(3-iodo-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-b]pyridin-5-yl)benzoic acid | 200 mg, 15% yield | IC1=NN(C2=NC=C(C=C21)C=2C=C(C(=O)O)C=CC2)COCC[Si](C)(C)C | C19H22IN3O3Si
